US04028356
In the manner given in Example 1, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 5-carbomethoxy-2-oxopentyl methanesulfonate under nitrogen to give 7-chloro-2-[[2-hydroxy-1-(3-carbomethoxypropyl)ethylidene]hydrazino] -5-phenyl-3H-1,4-benzodiazepine, methanesulfonate ester.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 5-carbomethoxy-2-oxopentyl methanesulfonate | CS(=O)(=O)OCC(CCCC(=O)OC)=O | C8H14O6S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-[[2-hydroxy-1-(3-carbomethoxypropyl)ethylidene]hydrazino] -5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CO)CCCC(=O)OC)C2=CC=CC=C2)C1 | C22H23ClN4O3
